US06737425B1
114-6) [4-Cyano-5-methyl-4-(2-formyl-5-thienyl)hexyloxy]-t-butyldimethyl Silane
A solution of [4-cyano-5-methyl-4-(2-bromo-5-thienyl)hexyloxy]-t-butyldimethyl silane, 1.42 g 3.41 mmol, in tetrahydrofuran 20 ml was cooled to −70° C. A solution of 1.53 M butyl lithium in hexane 1.52 ml was added dropwise thereto and stirred for 10 minutes. N,N-dimethylformamide 1.52 ml was added thereto, and the temperature was raised to room temperature. Aqueous saturated ammonium chloride and brine were added to the reaction mixture which was then extracted with ether. The organic layer was washed with brine, dried over magnesium sulfate anhydride and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane system), whereby the title compound, 515 mg 1.41 mmol, 41.3%, was obtained as a yellow syrup.

reactant | [4-cyano-5-methyl-4-(2-bromo-5-thienyl)hexyloxy]-t-butyldimethyl silane | C(#N)C(CCCO[Si](C)(C)C(C)(C)C)(C(C)C)C1=CC=C(S1)Br | C18H30BrNOSSi
reactant | butyl lithium | 1.53 M | C(CCC)[Li]
reactant | N,N-dimethylformamide | 1.52 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.52 ml | CCCCCC | C6H14
solvent | brine | [Cl-].[Na+].O
product | [4-Cyano-5-methyl-4-(2-formyl-5-thienyl)hexyloxy]-t-butyldimethyl Silane | C(#N)C(CCCO[Si](C)(C)C(C)(C)C)(C(C)C)C1=CC=C(S1)C=O | C19H31NO2SSi
